US06881844B2
A solution of 2,2,2-trifluoro-1-(6-methylsulfanyl-1H-indol-3-yl)-ethanone (200 mg, 0.77 mmol) in N,N-dimethylformamide (2 mL) at 25° C. was treated with potassium carbonate (160 mg, 1.16 mmol). The reaction was stirred at 25° C. for 15 min and then was treated with 2-iodopropane (0.11 mL, 1.16 mmol). The reaction was stirred at 25° C. for 18 h and then was heated at 60° C. for 2 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (50 mL) and ethyl acetate (50 mL). The layers were separated. The aqueous layer was extracted with ethyl acetate (1×50 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 3/1 hexanes/ethyl acetate) afforded 2,2,2-trifluoro-1-(1-isopropyl-6-methylsulfanyl-1H-indol-3-yl)-ethanone (216 mg, 93%) as an off-white solid: mp 67-69° C.; (ES)+-HRMS m/e calcd for C14H14F3NOS (M+) 301.0748, found 301.0740.

reactant | 2,2,2-trifluoro-1-(6-methylsulfanyl-1H-indol-3-yl)-ethanone | 0.77 mmol, 200 mg | FC(C(=O)C1=CNC2=CC(=CC=C12)SC)(F)F | C11H8F3NOS
reactant | potassium carbonate | 1.16 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 1.16 mmol, 0.11 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-1-(1-isopropyl-6-methylsulfanyl-1H-indol-3-yl)-ethanone | 216 mg, 93% | FC(C(=O)C1=CN(C2=CC(=CC=C12)SC)C(C)C)(F)F | C14H14F3NOS
